US08809372B2
A solution of diisopropylamine (0.08 mL, 0.59 mmol) in THF (7 mL) was cooled to −78° C., and 1.6M n-BuLi in hexanes (0.49 mL, 0.78 mmol) added. The reaction mixture was allowed to stir at 0° C. for 30 min, again cooled to −78° C. and a solution of 4-(thiazol-2-yl)-2-(trifluoromethyl)benzonitrile (0.1 g, 0.39 mmol) in THF (2 mL) added dropwise at −78° C. for 30 min. 4-Acetyl pyridine (0.048 mL, 0.43 mmol) in THF (2 mL) at −78° C. was then slowly added, the reaction was stirred for 1 hour and quenched with saturated ammonium chloride (2 mL), and water (10 mL). The reaction mixture was extracted with ethyl acetate (20 mL), the organic layer was dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure to obtain crude product. The crude product was product purified by Prep TLC (5% methanol in dichloromethane) to give 4-(5-(1-hydroxy-1-(pyridin-4-yl)ethyl)thiazol-2-yl)-2-(trifluoromethyl)benzonitrile (30 mg, 21%) as pale yellow solid in 99.1% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.54 (d, 2H), 8.36-8.32 (m, 2H), 8.24 (d, 1H), 8.03 (s, 1H), 7.52-7.51 (m, 2H), 6.81 (s, 1H), 1.97 (s, 3H). LC-MS m/z calculated for [M+H]+ 376.07, found 375.7.

reactant | diisopropylamine | 0.59 mmol, 0.08 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | 4-(thiazol-2-yl)-2-(trifluoromethyl)benzonitrile | 0.39 mmol, 0.1 g | S1C(=NC=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C11H5F3N2S
reactant | 4-Acetyl pyridine | 0.43 mmol, 0.048 mL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(5-(1-hydroxy-1-(pyridin-4-yl)ethyl)thiazol-2-yl)-2-(trifluoromethyl)benzonitrile | 30 mg, 21% | OC(C)(C1=CC=NC=C1)C1=CN=C(S1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C18H12F3N3OS
